US06054445
4-Acetyl-1-[(2-pyridyl)acetyl]-2-(R,S)-[(1-pyrrolidinyl)methyl]piperazine hydrochloride
The compound was prepared by coupling of 2-pyridylacetic acid with 4-acetyl-2-(R,S)-[(1-pyrrolidinyl)methyl]piperazine; mp: (HCl salt) 127-130° C.; 1H NMR (free base, 200 MHz, CDCl3) δ1.4-1.7 (4 H, m), 2.0 (3 H, s), 2.2-3.2 (9 H, m), 3.4-4.8 (6 H, m), 6.8-7.5 (3 H, m), 8.4 (1 H, m); MS (FAB) 331 (M+H)+ ; Anal. Calcd. for C18H26N4O2.2HCl. 0.5 NH4Cl: C, 50.27; H, 7.03; N, 14.65. Found: C, 50.86; H, 6.47; N, 15.79.

reactant | 2-pyridylacetic acid | N1=C(C=CC=C1)CC(=O)O | C7H7NO2
reactant | 4-acetyl-2-(R,S)-[(1-pyrrolidinyl)methyl]piperazine | C(C)(=O)N1CC(NCC1)CN1CCCC1 | C11H21N3O
reactant | HCl | Cl | ClH
reactant | NH4Cl | [NH4+].[Cl-]
product | 4-Acetyl-1-[(2-pyridyl)acetyl]-2-(R,S)-[(1-pyrrolidinyl)methyl]piperazine hydrochloride | Cl.C(C)(=O)N1CC(N(CC1)C(CC1=NC=CC=C1)=O)CN1CCCC1 | InChI=1S/C18H26N4O2.ClH/c1-15(23)21-10-11-22(17(14-21)13-20-8-4-5-9-20)18(24)12-16-6-2-3-7-19-16;/h2-3,6-7,17H,4-5,8-14H2,1H3;1H
